US05602098
Cysteine HCl (2.0 g, 12.6 mmol) was dissolved in 2N NaOH and benzyl chloroformate (4.5 mL) was slowly added over 15 min. The pH value of the solution was kept at 9-10 by addition of 2N NaOH (~7 mL) at 0° C. After vigorous stirring for 1 h at 0° C., the aqueous solution was acidified with 2N HCl at pH ~2 to form a colorless syrup. The aqueous solution was decanted and the sticky syrup was triturated with petroleum ether (100 ml×3) to give N,S-diCBZ-cysteine (3.94 g, 80%) as a white solid. Analytically pure sample could also be obtained by flash chromatography (on silica gel, 5% CH3OH in EtOAc) :mp.93°-94° C.; 1H NMR (CDCl3) δ7.33 (10H, m), 5.67 (1H, d, J=7.7 Hz), 5.21 (2H, s), 5.12 (2H, s), 4.66 (1H, ddd, J=7.7, 6.7, 4.4 Hz), 3.31 (1H, dd, J=6.7, 14.5 Hz).

reactant | Cysteine HCl | 12.6 mmol, 2.0 g | Cl.N[C@@H](CS)C(=O)O
reactant | benzyl chloroformate | 4.5 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | 2N | Cl | ClH
solvent | NaOH | 2N | [OH-].[Na+]
solvent | NaOH | 2N, ~7 mL | [OH-].[Na+]
product | N,S-diCBZ-cysteine | 3.94 g, 80% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CSC(=O)OCC1=CC=CC=C1)C(=O)O | C19H19NO6S
